US06974873B2
Preparation of 2-(4-anilinobutadienyl)-3-carboxypentyl-benzothiazolium bromide (Compound 58)
The desired compound is prepared by heating 3.44 g of 3-carboxypentyl-2-methylbenzothiazolium bromide, 5.14 g of malonaldehyde dianil hydrochloride and 2 mL of acetic anhydride in 30 mL of acetic acid for 6 hours.

reactant | 3-carboxypentyl-2-methylbenzothiazolium bromide | 3.44 g | [Br-].C(=O)(O)C(CC[N+]1=C(SC2=C1C=CC=C2)C)CC
reactant | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-(4-anilinobutadienyl)-3-carboxypentyl-benzothiazolium bromide | [Br-].N(C1=CC=CC=C1)C=CC=CC=1SC2=C([N+]1CCC(CC)C(=O)O)C=CC=C2 | InChI=1S/C23H24N2O2S.BrH/c1-2-18(23(26)27)15-17-25-20-12-6-7-13-21(20)28-22(25)14-8-9-16-24-19-10-4-3-5-11-19;/h3-14,16,18H,2,15,17H2,1H3,(H,26,27);1H
